US05854268
1. 1-(tert-Butoxycarbonyl)-4-(4-fluorobenzylthio)piperidine
To a stirred solution of 4-fluorobenzyl mercaptan (23.34 g, 164 mmol) in DMF (150ml) under argon, cooled in a bath at -2° C. as added portionwise 60% NaH in oil (6.57 g, 164 mmol) over 12 minutes. The mixture was then stirred at room temperature for 15 minutes before recooling in bath at -2° C. and adding by cannular, over 13 minutes, a solution of 4-bromo-1(tert-butoxycarbonyl)piperidine (10.84 g, 41.0 mmol) in DMF (50ml). The mixture was then stirred at room temperature for 24 h before partitioning between water (500ml) and diethyl ether (500ml). The aqueous layer was reextracted with more diethyl ether (500ml) and the combined organic extracts were dried (MgSO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 10-15% EtOAc/hexane) to give 4.58 g (34%) of the title compound as a colourless oil. δH (360 MHz, CDCl3) 1.45 (9H, s), 1.49 (2H, m), 1.86 (2H, m), 2.67 (1H, m), 2.88 (2H, m), 3.73 (2H, s), 3.92 (2H, m), 6.99 (2H, t, J=8.6 Hz), 7.28 (2H, m). m/e (ES+) 326 (M+H)+.

reactant | 4-fluorobenzyl mercaptan | 164 mmol, 23.34 g | FC1=CC=C(CS)C=C1 | C7H7FS
reactant | NaH | [H-].[Na+]
reactant | 4-bromo-1(tert-butoxycarbonyl)piperidine | 41.0 mmol, 10.84 g | BrC1CCN(CC1)C(=O)OC(C)(C)C | C10H18BrNO2
solvent | DMF | 150ml | CN(C)C=O | C3H7NO
solvent | DMF | 50ml | CN(C)C=O | C3H7NO
product | 1-(tert-Butoxycarbonyl)-4-(4-fluorobenzylthio)piperidine | 4.58 g, 34% | C(C)(C)(C)OC(=O)N1CCC(CC1)SCC1=CC=C(C=C1)F | C17H24FNO2S
